* C:\Users\Gonzalo\Documents\FIUBA\Materias\Trabajo Profesional Ingeniería Electrónica (86.99)\Proyecto\Hardware\TP-Hardware_PCB\sensores\orp.asc
Vdd 3V3 0 3.3
Vorp orp+ orp- PULSE(-1.2 1.2 0 2)
XU1 N001 orp- 3V3 0 orp- LM324
R5 N001 3V3 10k
R6 N001 0 3.5k
XU2 orp+ Vout 3V3 0 Vout TLC272
.tran 2
.inc TLC272.lib
.inc lm324.lib
.backanno
.end
