* C:\Users\Gonzalo\Documents\FIUBA\Materias\Trabajo Profesional Ingeniería Electrónica (86.99)\Proyecto\Hardware\TP-Hardware_PCB\sensores\ph.asc
Vph ph+ ph- PULSE(-0.43 0.43 0 2)
Vdd 3V3 0 3.3
XU3 N001 ph- 3V3 0 ph- TLC272
R3 N001 3V3 50k
R4 N001 0 10K
XU4 ph+ Vin- 3V3 0 Vout TLC272
R7 Vin- 0 10k
R8 Vout Vin- 10k
.tran 2
.inc TLC272.lib
.backanno
.end
