* C:\Users\Gonzalo\Documents\FIUBA\Materias\Trabajo Profesional Ingeniería Electrónica (86.99)\Proyecto\Hardware\TP-Hardware_PCB\sensores\temperatura.asc
Vdd 3V3 0 3.3
XU1 N002 N001 3V3 0 Vout LM358
R1 N002 0 47k
R2 N001 0 15k
R3 3V3 N001 18k
R4 Vout N001 2.7k
R§NTC 3V3 N002 {R}
.step param R 40k 330k 5k
.op
* 50k=40°C
* 70k=33°C
* 90k=27°C
* 110k=23°C
* 130k=19°C
* 150k=16°C
* 170k=13°C
* 190k=11°C
* 210k=9°C
* 230k=7°C
.inc lm358.lib
.backanno
.end
